Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ no known PMH presenting with traumatic SAH after
witnessed fall with head strike. 

History obtained with aid of son. Yesterday evening ___
patient was in the restroom and fell backwards with positive
posterior head strike. No loss of consciousness, nausea,
vomiting, amnesia. Otherwise also denied any preceding CP, SOB,
palpitations, unilateral numbness or weakness, or slurred 
speech.
Per son patient returned to baseline within 1 minute. No recent
fevers, cough or cold, urinary or bowel symptoms. Patient was
initially seen at ___ where a head CT demonstrated a small
subarachnoid hemorrhage for which the patient was transferred to
___ for neurosurgical evaluation. Neuro exam at this time was
initially intact with no signs of trauma. 

Notably in the ED just after 8 am on ___, patient triggered
following a possible syncopal episode. Per report, patient was
standing up to urinate and developed light headedness. He began
to fall, but his son caught him and helped him to the edge of 
the
bed. There was possible decreased responsiveness for less than a
minute. Patient states that he recalls the whole event and
describes a similar sensation to when he fell the prior night at
home. No extremity shaking, RN reports eye deviation to the 
left,
but no incontinence or tongue biting. He returned to his 
baseline
state within 1 minute.

Per family, patient has possibly had prior falls at home in 
___
with similar episodes of lightheadedness. The family has been
concerned with decreased PO intake.

In the ED, initial vitals were:
T 98.3, HR 96, BP 179/91, RR 16, O2 99 RA
Orthostatics by neurology:
Supine  BP 144/72, HR 82
Sitting  BP 89/60, HR 93
Standing  BP 64/43, HR 105

Exam was notable for: 
Neuro exam within normal limits aside from lightheadedness while
standing. No weakness or sensory deficits. Positive orthostatics

Labs were notable for:
WBC 5.4  Hgb 12.5 Plt 186
Na 138  K 4.1  Cl 101  HCO3 26  BUN 18  Cr 1.2
U/A: 1WBC, no bacteria, negative nitrites
Utox: negative
LFTs: unremarkable
Serum tox: neg for ASA, EtOH, Acetaminophen, Tricyclics
Trop: negative

Studies were notable for:
CT noncon head: unchanged right parietoocciptal SAH from 
previous
study ___ 19:03.
EKG: sinus rhythm, early R wave progression, LVH, nonspecific ST
changes

The patient was given:
1000mL LR
500mL NS
Thiamine 100mg
Multivitamins 1 TAB

Trauma surgery, neurosurgery, and neurology were consulted
Trauma surgery: no evidence of other traumatic injuries. No need
for further imaging from trauma perspective.
Neurosurgery: No neurosurgical intervention or f/u needed.
Neurology: Likely syncope secondary to orthostatic hypotension.
Also consider seizure, micturition syncope. 
RECOMMENDATIONS:
- IV fluids
- admit to medicine for workup/management of orthostatic
hypotension
- consider workup for prostate cause of urinary frequency
- consider bladder scan prior to void to assess for bladder
distension. Would counsel pt to void sitting down to avoid
compounding orthostatic hypotension.
- no AEDs needed given low suspicion for seizure

On arrival to the floor, patient and son repeat the above story.
Patient states that he felt better following fluid 
administration
and denies any other symptoms at this time.

 
Past Medical History:
Remote hx knee surgery following car accident ___ yrs ago.

 
Social History:
___
Family History:
No seizures, cardiac issues. Son with HTN and borderline DM.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================

VS: T 97.8, HR 73, BP 162/83 lying 138/66 sitting 86/62 
standing,
RR 18. O2 97 RA

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm
NEUROLOGIC: AOx3 to name, place, date. CN2-12 intact. Moving all
4 limbs spontaneously. ___ strength throughout. Normal 
sensation.

DISCHARGE PHYSICAL EXAM:
=======================

VS: 24 HR Data (last updated ___ @ 2259)
    Temp: 97.9 (Tm 98.3), BP: 171/84 (78-171/53-92), HR: 93
(77-93), RR: 18 (___), O2 sat: 97% (95-98), O2 delivery: Ra   

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. dry
oral mucosa, bruising on R aspect of tongue consistent with
biting
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm
NEUROLOGIC: AOx3 to name, place, date. CN2-12 intact. Moving all
4 limbs spontaneously. ___ strength throughout. Normal 
sensation.

 
Pertinent Results:
ADMISSION LABS
===============

___ 10:25PM BLOOD WBC-5.4 RBC-3.85* Hgb-12.5* Hct-37.4* 
MCV-97 MCH-32.5* MCHC-33.4 RDW-11.5 RDWSD-40.4 Plt ___
___ 10:25PM BLOOD Neuts-52.8 ___ Monos-7.6 Eos-0.6* 
Baso-0.2 Im ___ AbsNeut-2.83 AbsLymp-2.06 AbsMono-0.41 
AbsEos-0.03* AbsBaso-0.01
___ 10:25PM BLOOD Glucose-112* UreaN-18 Creat-1.2 Na-138 
K-4.1 Cl-101 HCO3-26 AnGap-11

DISCHARGE LABS
===============

___ 07:17AM BLOOD WBC-4.6 RBC-3.77* Hgb-12.2* Hct-36.4* 
MCV-97 MCH-32.4* MCHC-33.5 RDW-11.6 RDWSD-40.8 Plt ___
___ 07:17AM BLOOD Glucose-112* UreaN-25* Creat-1.2 Na-138 
K-5.0 Cl-100 HCO3-27 AnGap-11
___ 07:17AM BLOOD Calcium-9.9 Phos-3.4 Mg-2.0

OTHER PERTINENT LABS
=====================

___ 08:20AM BLOOD ALT-12 AST-22 AlkPhos-51 TotBili-0.4
___ 08:20AM BLOOD cTropnT-<0.01
___ 08:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:14AM BLOOD Cortsol-15.1
___ 08:14AM BLOOD TSH-0.85

IMAGING/STUDIES
===============

___ Imaging CT HEAD W/O CONTRAST 
 
There is redemonstration of the right parietooccipital 
subarachnoid 
hemorrhage, unchanged from prior study dated ___.  
There is no 
mass-effect or midline shift.  There is no evidence of acute 
large territorial infarction, edema,or mass.  There is 
prominence of the ventricles and sulci suggestive of 
involutional changes.  Bilateral periventricular and subcortical 
white matter hypodensities are nonspecific but compatible with 
sequelae of chronic small vessel ischemic disease. 
  
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized portion of the orbits are unremarkable. 
  
IMPRESSION:  
  
Unchanged right parieto-occipital subarachnoid hemorrhage. 

___ Cardiovascular Transthoracic Echo Report 
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a small cavity. There is normal regional and 
global left ventricular systolic function. Overall left 
ventricular systolic function is hyperdynamic. The visually 
estimated left ventricular ejection fraction is 80%. There is a 
mild mid cavitary gradient but no RESTING left ventricular 
outflow tract gradient. There is Grade I diastolic dysfunction. 
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic arch diameter is 
normal with a normal descending aorta
diameter. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is trace aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are normal. There is 
mild pulmonic regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.
IMPRESSION: small, hyperdynamic left ventricle without resting 
outflow tract obstruction
 
Brief Hospital Course:
___ yoM w/ no known PMH on no medications who presented from OSH
with small SAH after fall and subsequent episode of
lightheadedness in the ED, found to have orthostatic 
hypotension.

====================
ACUTE/ACTIVE ISSUES:
====================

# Syncope/Light-headedness
# Orthostatic Hypotension
# Subarachnoid hemorrhage
Presented with fall/lightheadedness with standing in the setting 
of decreased PO intake. Upon admission he was found to be 
orthostatic with transiently improved symptoms after IVF. CT was 
notable for stable right parieto-occipital SAH. Despite his 
tongue bite, seizure was considered less likely given no limb 
jerking, incontinence, or postictal period. ECG was notable for 
likely L atrial enlargement and
possible inferior infarct, however there was no arrhythmia on 
telemetry or ECG. TTE demonstrated hyperdynamic circulation with 
EF 80%, intracavitary gradient without LVOT obstruction at rest. 
This was most likely explained by hypovolemia and the patient 
was given further IVF and encouraged to increase PO intake. 
Repeat orthostatics were positive, although the patient was not 
symptomatic. It was thought that there may likely be an element 
of age related vasoplegia and dysautonomia given supine 
hypertension. We counseled the patient and family with 
precautionary measures, instructing him to rise slowly from bed 
and sit on the toilet when going to the bathroom. 

#Severe Malnutrition 
The patient had been living in ___ until 3 weeks prior to 
admission. His son described that in ___, the patient was 
often unable to go out and get food due to civil unrest, 
contributing to his malnutrition. Nutrition consulted during 
admission with recs for ensure supplements TID and multivitamin 
with minerals. 

# Urinary frequency
The patient reported chronically increased frequency without 
infectious symptoms such as dysuria, flank pain, fevers. UA 
unremarkable. This was thought most likely to be related to due 
to BPH or overactive bladder. Bladder scans with < 100cc PVR 
which did not suggest retention. We deferred Tamsulosin or 
empiric BPH treatment given orthostasis.

TRANSITIONAL ISSUES
===================

# Living situation
# Unintentional Weight Loss
# Food insecurity
[] Lives in ___, unclear if he has been getting regular 
medical care given not on any medications. Would recommend 
getting all outpatient cancer screening here in the ___

# Urinary frequency
[] Consider initiation of finasteride for empiric BPH treatment. 
Would avoid alpha blockers given symptomatic orthostatic 
hypotension

# Orthostatic hypotension with systolic hypertension
[] Recommend increased PO intake and precautionary measures like 
getting up from bed slowly. If he needs to be started on an 
antihypertensive, would avoid alpha blockers.

# CODE: full code (confirmed)
# CONTACT: ___, ___, ___

>30 min spent on discharge planning, including face to face 
time. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tab-cap by mouth once a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Syncope/Light-headedness
Orthostatic Hypotension
Subarachnoid hemorrhage

SECONDARY DIAGNOSES:
=====================
Severe Malnutrition 
Increased Urinary frequency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you fell at home.  

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - You were found to have a bleed in your brain from the fall.
 - We found that you fall was likely due to being dehydrated. We 
gave you fluids though the IV. 
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight increases by more 
than 3 pounds  
 - Please maintain a low salt diet and monitor your fluid intake 
 
 - Seek medical attention if you have new or concerning symptoms 


 It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___